US07960394B2
(1) Production of 2-(4-hydroxy-2-methylphenyl)-3-methyl-4(3H)-quinazolinone:
The entitled compound was obtained according to the method of Example 1-(1), 1-(2) and 1-(3) but using anthranilic acid, methylamine and 2-methyl-4-methoxybenzaldehyde.

reactant | anthranilic acid | C(C=1C(N)=CC=CC1)(=O)O | C7H7NO2
reactant | methylamine | CN | CH5N
reactant | 2-methyl-4-methoxybenzaldehyde | CC1=C(C=O)C=CC(=C1)OC | C9H10O2
product | 2-(4-hydroxy-2-methylphenyl)-3-methyl-4(3H)-quinazolinone | OC1=CC(=C(C=C1)C1=NC2=CC=CC=C2C(N1C)=O)C | C16H14N2O2
